US03978093
A solution of 28 ml. (45 mmol.) of 1.6 M n-butyl lithium in hexane was added dropwise and with stirring during 45 minutes to a solution of 3.2 ml. (50 mmol.) of methylene chloride in 20 ml. of diethyl ether, 20 ml. of petroleum ether, and 140 ml. tetrahydrofuran under nitrogen cooled to -95° in a toluene-liquid nitrogen slush. After 30 minutes, a solution of 6.72 g. (40 mmol.) of (Z)-2-methoxy-3-acetyl-1,5-heptadiene in 60 ml. of tetrahydrofuran was added dropwise during 45 minutes and the mixture was allowed to warm slowly to room temperature and then allowed to reflux for 3 hours. The mixture was then cooled, concentrated, poured into 200 ml. of saturated aqueous ammonium chloride, extracted with diethyl ether, the combined ethereal extracts washed with saturated aqueous sodium chloride, dried (Na2SO4) and concentrated to afford (Z)-1-chloro-1,2-epoxy-2-methyl-3-(1-methoxyethenyl)-5-heptene.

reactant | n-butyl lithium | 45 mmol, 1.6 M | C(CCC)[Li]
reactant | methylene chloride | 50 mmol | C(Cl)Cl | CH2Cl2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | (Z)-2-methoxy-3-acetyl-1,5-heptadiene | 40 mmol | COC(=C)C(C\C=C/C)C(C)=O | C10H16O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (Z)-1-chloro-1,2-epoxy-2-methyl-3-(1-methoxyethenyl)-5-heptene | ClC1C(C(C\C=C/C)C(=C)OC)(C)O1 | C11H17ClO2
